US09056874B2
(±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-indole-6-carbonitrile
tert-Butyl-4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (70 mg, 0.125 mmol) was dissolved in THF (1.3 mL) and TBAF (1.3 mL, 1.246 mmol) was added. Ethylenediamine (0.084 mL, 1.25 mmol) was then added. The reaction was heated at 65° C. for 4 days. The reaction cooled to room temperature and quenched with saturated aq. ammonium chloride (10 mL) and then diluted with DCM. The layers were separated and the organic layer was washed with water, dried over MgSO4 filtered and concentrated. The resulting residue was absorbed onto silica and purified via flash chromatography (0-75% EtOAc:heptanes) to obtain the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.39 (s, 1H) 10.80 (s, 1H) 7.66-7.85 (m, 1H) 7.50 (d, J=8.08 Hz, 1H) 7.21 (dd, J=8.15, 1.45 Hz, 1H) 7.14 (t, J=2.78 Hz, 1H) 6.76 (s, 1H) 6.56 (d, J=4.42 Hz, 1H) 6.42 (dd, J=3.03, 2.02 Hz, 1H) 6.07-6.14 (m, 1H) 5.88 (d, J=4.55 Hz, 1H) 3.82 (s, 3H) 2.45 (d, J=0.63 Hz, 3H). MS (ESI−) m/z 330.05 (M−H).

reactant | tert-Butyl-4-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.125 mmol, 70 mg | C(C)(C)(C)OC(=O)N1C=CC2=C(C(=CC(=C12)C)OC)C(O)C=1N(C2=CC(=CC=C2C1)C#N)COCC[Si](C)(C)C | C31H39N3O5Si
reactant | TBAF | 1.246 mmol, 1.3 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Ethylenediamine | 1.25 mmol, 0.084 mL | C(CN)N | C2H8N2
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | (±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-indole-6-carbonitrile | OC(C=1NC2=CC(=CC=C2C1)C#N)C1=C2C=CNC2=C(C=C1OC)C | C20H17N3O2
